US04661607
A mixture of 4,8-dichloro-3-hydroxy-9-oxo-9H-xanthene (2.8 g), potassium carbonate (3.4 g), ethyl bromoacetate (4.2 g) and DMF (60 ml) was stirred at 60°-65° C. for 6.5 hours. After cooling the mixture, sodium hydroxide (4 g) and water (100 ml) were added and the solid crystal was recovered by filtration, washed with water and dried. Recrystallization from DMF gave 2.4 g of 4,8-dichloro-9-oxo-9H-xanthene-3-yloxyacetic acid. m.p. 270°-271° C. This compound showed a mass spectrum having a molecular ion peak at m/e 338.

reactant | 4,8-dichloro-3-hydroxy-9-oxo-9H-xanthene | 2.8 g | ClC1=C(C=CC=2C(C3=C(C=CC=C3OC12)Cl)=O)O | C13H6Cl2O3
reactant | potassium carbonate | 3.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 4.2 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 4,8-dichloro-9-oxo-9H-xanthene-3-yloxyacetic acid | 2.4 g | ClC1=C(C=CC=2C(C3=C(C=CC=C3OC12)Cl)=O)OCC(=O)O | C15H8Cl2O5
